US04128647
A. 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis[(4-methoxyphenyl)methylene]thiopyran-4-ol-1,1-dioxide
A stirred solution of tetrahydro-3,5-bis(4-methoxyphenylmethylene)-4H-thiopyran-4-one-1,1-dioxide (5.7 g, 0.014 mole) in 100 ml of MEK is treated with 2-amino-2-thiazoline (2.1 g, 0.020 mole). After heating at reflux for 1 hour the yellow mixture becomes colorless. After cooling for several hours, the product is filtered and washed with MEK and ether to give 7.0 g (97%) of colorless product, m.p. 194°-196°.

reactant | tetrahydro-3,5-bis(4-methoxyphenylmethylene)-4H-thiopyran-4-one-1,1-dioxide | 0.014 mole, 5.7 g | COC1=CC=C(C=C1)C=C1CS(CC(C1=O)=CC1=CC=C(C=C1)OC)(=O)=O | C21H20O5S
reactant | 2-amino-2-thiazoline | 0.020 mole, 2.1 g | NC=1SCCN1 | C3H6N2S
solvent | MEK | 100 ml | CCC(=O)C | C4H8O
product | 4-[(4,5-Dihydro-2-thiazolyl)amino]tetrahydro-3,5-bis[(4-methoxyphenyl)methylene]thiopyran-4-ol-1,1-dioxide | 7.0 g, 97% | S1C(=NCC1)NC1(C(CS(CC1=CC1=CC=C(C=C1)OC)(=O)=O)=CC1=CC=C(C=C1)OC)O | C24H26N2O5S2
